US06100257
Then, 1.1 g of sodium hydride (60% in oil) was suspended in 50 ml of tetrahydrofuran, and the mixture was cooled to 5° C., to which a solution of 7.2 g of ethyl 4-chloro-2-fluoro-5-isopropoxyphenylacetate in 80 ml of tetrahydrofuran was slowly added dropwise. The mixture was stirred for 30 minutes with a gradual temperature increase to room temperature, to which 10 ml of ethyl formate was added at room temperature, followed by stirring for 3 hours. Then, the reaction mixture was cooled to 5° C., to which diluted hydrochloric acid was added. The reaction mixture was concentrated, and the residue was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried, and concentrated. The residue was subjected to silica gel column chromatography, which afforded 8.0 g of ethyl 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-formylacetate.

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | ethyl 4-chloro-2-fluoro-5-isopropoxyphenylacetate | 7.2 g | ClC1=CC(=C(C=C1OC(C)C)CC(=O)OCC)F | C13H16ClFO3
reactant | ethyl formate | 10 ml | C(=O)OCC | C3H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | ethyl 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2-formylacetate | 8.0 g | ClC1=CC(=C(C=C1OC(C)C)C(C(=O)OCC)C=O)F | C14H16ClFO4
